US08871756B2
2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methyl-N-[2-(piperidin-1-yl)ethyl]quinolin-4-amine
The title compound was prepared in analogy to Example 9-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 2-(piperidin-1-yl)ethanamine. MS obsd. (ESI+) [(M+H)+] 465, 1H NMR (400 MHz, CDCl3) δ ppm 8.04 (d, J=7.6 Hz, 1 H), 7.67 (d, J=7.6 Hz, 1 H), 7.51 (m, 2 H), 7.38 (t, J=7.6 Hz, 1 H), 7.30 (m, 2 H), 5.74 (m, 1 H), 5.12 (s, 2 H), 4.6 (brs, 2 H), 3.58 (s, 2 H), 3.28 (m, 2 H), 2.75 (t, J=8.4 Hz, 2 H), 2.46 (m, 7 H), 1.62 (m, 4 H), 1.52 (m, 2 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 2-(piperidin-1-yl)ethanamine | N1(CCCCC1)CCN | C7H16N2
product | 2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methyl-N-[2-(piperidin-1-yl)ethyl]quinolin-4-amine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCCN2CCCCC2)C)=O | C26H32N4O2S
